US04994569
4-Chlorophenyl isocyanate (1 g) is added at a temperature in the region of 20° C. to a solution, maintained under an argon atmosphere, of (4RS, 5RS)-2,4-diphenyl-5,6-dihydro-4H-1,3-oxazin-5-ol (1.2 g) in 1,2-dichloroethane (20 cc). The solution obtained is heated to reflux for 7 hours 30 minutes and then concentrated to dryness under reduced pressure (2.7 kPa). After two successive recrystallizations in acetonitrile, (4RS, 5RS)-5-(4-chlorophenylcarbamoyloxy)-2,4-diphenyl-5,6-dihydro-4H-1,3-oxazine (1.1 g), m.p. 200° C., is obtained.

reactant | 4-Chlorophenyl isocyanate | 1 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | (4RS, 5RS)-2,4-diphenyl-5,6-dihydro-4H-1,3-oxazin-5-ol | 1.2 g | C1(=CC=CC=C1)C=1OCC(C(N1)C1=CC=CC=C1)O | C16H15NO2
solvent | 1,2-dichloroethane | 20 cc | ClCCCl | C2H4Cl2
product | (4RS, 5RS)-5-(4-chlorophenylcarbamoyloxy)-2,4-diphenyl-5,6-dihydro-4H-1,3-oxazine | 1.1 g | ClC1=CC=C(C=C1)NC(=O)OC1C(N=C(OC1)C1=CC=CC=C1)C1=CC=CC=C1 | C23H19ClN2O3
